US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (1.21 g, 1.84 mmol) (obtained as described in Reference Example 56(4)) in anhydrous tetrahydrofuran (60.6 ml) were added successively acetic acid (0.13 ml, 2.27 mmol) and a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (2.2 ml, 2.2 mmol) in an ice bath. The mixture was stirred for 2.5 hours under the same conditions. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. To the residue was added isopropyl ether, and the mixture was stirred, washed and filtered off to give 3-hydroxy-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (667 mg, yield 86%) as a yellow solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 1.84 mmol, 1.21 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(NCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C33H37N5O6SSi
reactant | acetic acid | 2.27 mmol, 0.13 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 60.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 mmol, 2.2 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 667 mg, yield 86% | OC1CN(C1)C=1SC=C(N1)C(NCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H19N5O6S
